US09108936B2
To a solution of trifluoro-methanesulfonic acid [2-[(4-chlorophenyl)-methyl-carbamoyl]-3-methyl-5-morpholin-4-yl-phenyl]ester (synthesized according to the method described in section a) of example 12) (0.30 g, 0.61 mmol) in N-methyl-2-pyrrolidone (3 ml) are added lithium chloride (0.078 g, 1.83 mmol) and triphenylarsine (0.015 g, 0.05 mmol). The reaction mixture is degassed and flushed with argon for 30 min before the addition of copper(I) iodide (0.006 g, 0.03 mmol) and tris(dibenzylideneacetone)dipalladium(0) (0.011 g, 0.012 mmol). The mixture is stirred for 10 min followed by the addition of tributyl-isopropenyl stannane (0.32 g, 1.04 mmol). The reaction mixture is heated at 120° C. for 4 h. After completion of the reaction, the reaction mixture is poured onto water, extracted with ethyl acetate (3×30 ml). The combined organic layers are washed with saturated potassium fluoride solution (2×20 ml), brine (20 ml), dried over sodium sulfate and concentrated to get the crude product, which is purified by column chromatography (silica gel-10% KF, 30% ethyl acetate/hexane) affording N-[(4-chlorophenyl)-methyl]-2-isopropenyl-6-methyl-4-morpholin-4-yl-benzamide (0.19 g, 0.49 mmol, 81%).

reactant | trifluoro-methanesulfonic acid [2-[(4-chlorophenyl)-methyl-carbamoyl]-3-methyl-5-morpholin-4-yl-phenyl]ester | ClC1=CC=C(C=C1)N(C(=O)C1=C(C=C(C=C1C)N1CCOCC1)OS(=O)(=O)C(F)(F)F)C | C20H20ClF3N2O5S
reactant | lithium chloride | 1.83 mmol, 0.078 g | [Cl-].[Li+]
reactant | triphenylarsine | 0.05 mmol, 0.015 g | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | tributyl-isopropenyl stannane | 1.04 mmol, 0.32 g | C(CCC)[Sn](C(=C)C)(CCCC)CCCC
solvent | N-methyl-2-pyrrolidone | 3 ml | CN1C(CCC1)=O | C5H9NO
catalyst | copper(I) iodide | 0.03 mmol, 0.006 g | [Cu]I
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.012 mmol, 0.011 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[(4-chlorophenyl)-methyl]-2-isopropenyl-6-methyl-4-morpholin-4-yl-benzamide | 0.49 mmol, 0.19 g, 81% | ClC1=CC=C(C=C1)CNC(C1=C(C=C(C=C1C)N1CCOCC1)C(=C)C)=O | C22H25ClN2O2
